US04348396
A mixture of 16.7 g. of 5-isopropoxyanthranilic acid, 10.0 g. of 2-chloro-5-cyanopyridine and 0.01 g. of potassium iodide in 30 ml. of triglyme was heated to a bath temperature of 150° overnight under a stream of argon. On cooling, the mixture was triturated with ethanol and water. A gummy solid was collected, dissolved in hot ethyl acetate, filtered and the filtrate was evaporated to give 8.4 g. of crude product (38% yield). Two recrystallizations of this solid from dimethylformamide-acetic acid-water give pure 8-cyano-2-isopropoxy-11-oxo-11H-pyrido[2,1-b]quinazoline, mp 234°-236°.

reactant | 5-isopropoxyanthranilic acid | C(C)(C)OC1=CC=C(C(C(=O)O)=C1)N | C10H13NO3
reactant | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | potassium iodide | [I-].[K+]
reactant | triglyme | COCCOCCOCCOC | C8H18O4
product | 8-cyano-2-isopropoxy-11-oxo-11H-pyrido[2,1-b]quinazoline | C(#N)C=1C=CC2=NC3=CC=C(C=C3C(N2C1)=O)OC(C)C | C16H13N3O2
